US08283366B2
Step 1d: Preparation of (3-Chloro-4-fluorophenyl)(8-(hydroxymethyl)-2,2-dimethyl-4H-[1,3]dioxino[4,5-c]pyridin-5-yl)methanone
5.5 g of 5-(4-fluorobenzoyl)-2,2,8-trimethyl-4H-[1,3]dioxino[4,5-c]pyridine 7-oxide was dissolved in 20 mL dichloromethane (DCM) in 5 mL of Trifluoroacetic anhydride (TFAA) followed by vigorous boiling. When the boiling subsided an additional 30 mL of TFAA was added and the solution was stirred overnight (14 h). TLC revealed completion of the reaction (Rf EtOAc; (s.m. 0.2), product 0.9). The DCM was removed by evaporation and the solvent switched to MeOH (100 mL). This solution was stirred for 30 min after which evaporation affording thick oil. Toluene was added and removed under high vacuum yielding a foam containing the desired product (1d).

reactant | 5-(4-fluorobenzoyl)-2,2,8-trimethyl-4H-[1,3]dioxino[4,5-c]pyridine 7-oxide | 5.5 g | FC1=CC=C(C(=O)C2=C3C(=C([N+](=C2)[O-])C)OC(OC3)(C)C)C=C1 | C17H16FNO4
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | Toluene | C1(=CC=CC=C1)C | C7H8
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | Trifluoroacetic anhydride | 5 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | TFAA | 30 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | (3-Chloro-4-fluorophenyl)(8-(hydroxymethyl)-2,2-dimethyl-4H-[1,3]dioxino[4,5-c]pyridin-5-yl)methanone | ClC=1C=C(C=CC1F)C(=O)C1=C2C(=C(N=C1)CO)OC(OC2)(C)C | C17H15ClFNO4
